US06506901B2
Step C: 4-(3-Methyl-2-oxo-imidazolidin-1-yl)-benzenesulfonyl Chloride
A solution of 1-methyl-3-phenylimidazol-2-one (5.7 g, 32.3 mmol) in 10 mL of chlorosulfonic acid was stirred at ambient temperature for 30 minutes. The reaction mixture was poured into ice/water and extracted with ethyl acetate. The organic phase was separated, dried (Na2SO4) and concentrated in vacuo to a white solid (7.4 g). Used as is in the following prep.

reactant | 1-methyl-3-phenylimidazol-2-one | 32.3 mmol, 5.7 g | CN1C(N(C=C1)C1=CC=CC=C1)=O | C10H10N2O
reactant | chlorosulfonic acid | 10 mL | ClS(=O)(=O)O | ClHO3S
product | 4-(3-Methyl-2-oxo-imidazolidin-1-yl)-benzenesulfonyl Chloride | CN1C(N(CC1)C1=CC=C(C=C1)S(=O)(=O)Cl)=O | C10H11ClN2O3S
